US08012961B2
12.i. 2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl) -acrylic acid ethyl ester
Starting from 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine (10 g, 38.9 mmol) and diethyl malonate (17.9 mL, 116.7 mmol), the title compound (4.8 g, 17.3 mmol) was prepared as described in WO 2007/122258 for the analogous methyl ester. The purity of the material was around 80%.

reactant | 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine | 38.9 mmol, 10 g | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | diethyl malonate | 116.7 mmol, 17.9 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl) -acrylic acid ethyl ester | 17.3 mmol, 4.8 g | C(C)OC(C(=C)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C14H13FN2O3
